US05985922
L-alanine laurylamide (2.5 g) and 1 g of sodium hydroxide were dissolved in 20 ml of methanol, and 1.0 ml of salicylaldehyde and 0.1 g of sodium borohydride were added thereto in this order. After the mixture was stirred for 1 hour, 1.0 ml of salicylaldehyde and 0.1 g of sodium borohydride were added thereto again in this order. The mixture was stirred overnight at room temperature, and the insoluble matter was then separated through filtration. The filtrate was adjusted to a pH of 7 with hydrochloric acid, and concentrated under reduced pressure. The resulting oil was dissolved in diethyl ether, washed with water, and then dried over with magnesium sulfate. After the drying agent was separated through filtration, the filtrate was concentrated under reduced pressure to give 3 g of N-(2-hydroxybenzyl)-L-alanine laurylamide.

reactant | L-alanine laurylamide | 2.5 g | C(CCCCCCCCCCC)NC([C@@H](N)C)=O | C15H32N2O
reactant | sodium hydroxide | 1 g | [OH-].[Na+]
reactant | salicylaldehyde | 1.0 ml | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | sodium borohydride | 0.1 g | [BH4-].[Na+]
reactant | salicylaldehyde | 1.0 ml | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | sodium borohydride | 0.1 g | [BH4-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | N-(2-hydroxybenzyl)-L-alanine laurylamide | 3 g | C(CCCCCCCCCCC)NC([C@@H](NCC1=C(C=CC=C1)O)C)=O | C22H38N2O2
